Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
subacute to chronic shortness of breath,
chest pressure, lightheadedness and transient left arm tingling
with exertion with recent incidentally noted R ICA dissection on
MRA

 
Major Surgical or Invasive Procedure:
LP ___ 

 
History of Present Illness:
The patient is a ___ year old male with history of Grave's
disease, hyperlipidemia, amblyopia of left eye who presents to 
ED
with subacute on chronic shortness of breath, chest pressure,
lightheadedness and transient left arm tingling with exertion
with recent incidentally noted R ICA dissection on MRA. 
Neurology
is asked to evaluate patient for whether symptoms could be
neurologic in origin. 

Per patient and review of Atrius records, he reports one year of
these symptoms. He said initially symptoms would come on when he
was walking or running. He would feel chest pressure, shortness
of breath, lightheaded and faint (not dizzy or room spinning).
Sometimes if he stopped doing whatever activity he was doing, 
his
symptoms would resolve. Other times he pushed through his
symptoms and they resolved on their own.

Then over the past ___ months, his symptoms have been coming 
with
increasing frequency and duration. He has also had episodes 
where
his left forearm and entire hand gets tingly (this occurs in
conjunction with his light headedness, chest pressure and
shortness of breath). This episodes aren't present upon 
awakening
and seem to only be present with episodes associated with
shortness of breath and chest pressure. There have been no
headaches or neck pain. These episodes normally resolve with 
rest
or if he "pushes through" the sensation (keeps walking, etc.).
However, over the past several days to a week they have been
occurring with only very mild activity or moving around rather
than with walking or running. He went to see his PCP ___ ___ for
these symptoms who sent him to ___. At ___ he has EKG
which showed "SB 52 and new T wave changes in III, F". He has
stress test and cardiac enzymes which were negative. He had a
normal CXR. He was started on a ASA 325 mg daily. 

He then had MRI/MRA brain on ___ given his symptoms of
intermittent left arm tingling which showed "2 short dissections
at the mid right ICA with <50% occlusion". There was no stroke.
He was referred to neurology and has an appointment in ___. 

He had a stress MIBI on ___ which was essentially normal 
without
ischemia. He has not had a TTE. 

Over the past ___ days he has had even more frequent episodes.
Yesterday he had these episodes all throughout the day. At most
the episodes lasted up to 2 hours. He reports that he had an
episode of the constellation of symptoms this morning when he 
was
resting.  

He denies any other symptoms of vision changes, dysarthria,
trouble speaking or weakness. He has had no recent head trauma 
or
strenuous exercise. He has no headache. He does have occasional
stiff neck for years. He has no PND or orthopnea, no leg
swelling. He was in a fender bender about a year ago with some
neck pain but this resolved. There is no family history of 
stroke
or vascular problems. 

On neurologic review of systems, the patient denies headache,
lightheadedness, or confusion. Denies difficulty with producing
or comprehending speech. Denies loss of vision, blurred vision,
diplopia, vertigo, tinnitus, hearing difficulty, dysarthria, or
dysphagia. Denies loss of sensation. Denies bowel or bladder 

On general review of systems, the pt denies recent fever or
chills.  No night sweats or recent weight loss or gain.  Denies
nausea, vomiting, diarrhea, constipation or abdominal pain.  No
recent change in bowel or bladder habits.  No dysuria.  Denies
arthralgias or myalgias. Denies rash.
 
Past Medical History:
Grave's- off medications, no longer needed
hyperlipidemia
amblyopia left eye 
 
Social History:
___
Family History:
Father- passed at ___ yo - unknown cause of death but was "heavy
smoker and drinker"; mother - COPD and complications at ___ yo;
sister has thyroid issues, brother is a physician and is 
healthy;
No history of strokes or blood vessel problems as far as patient
is aware.           
 
Physical Exam:
PHYSICAL EXAMINATION
97.2 °F(36.2 °C)
Temporal
Artery
65 15 129/87
MAP: 101.0
98
Room Air

Orthostatic vitals taken by me: sitting 137/89 -> standing 
152/81

General: Awake, cooperative 
HEENT: NC/AT, no scleral icterus noted, 
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity
Pulmonary: He did appear dyspneic at times when talking. Lungs
CTA bilaterally without R/R/W
Cardiac: RRR, nl. S1S2, no M/R/G noted
Extremities: No ___ edema.
Skin: no rashes or lesions noted.

Neurologic:

-Mental Status: Alert, oriented x ___, I was born here
___ years ago! ___. Able to relate history without
difficulty. Attentive, able to name ___ backward without
difficulty. Language is fluent with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors.
Pt was able to name both high and low frequency objects.  Able 
to
read without difficulty. Speech was not dysarthric. Able to
follow both midline and appendicular commands.  There was no
evidence of apraxia or neglect.

-Cranial Nerves:
 II, III, IV, VI:  PERRL 3 to 2mm and brisk. He had restriction
of abduction of right and left eye but otherwise full EOM 
without
nystagmus. Left exophoria. VFF to confrontation. 
 V: Facial sensation intact to light touch.
 VII: No facial droop, facial musculature symmetric.
 VIII: Hearing intact to finger-rub bilaterally.
 IX, X: Palate elevates symmetrically.
 XI: ___ strength in trapezii and SCM bilaterally.
 XII: Tongue protrudes to right but with full excursions

-Motor: No atrophy. No pronator drift bilaterally.
 No adventitious movements, such as tremor, noted. No asterixis
noted.
   Delt Bic Tri WrE FFl FE IO IP Quad Ham TA Gastroc 
 L  5    ___   ___  5   5    5  5     5    
 R  5    ___   ___  5   5    5  5     5
APB full bl 

-Sensory: No deficits to light touch, pinprick, proprioception
throughout. No ___ or Phalen's. No extinction to DSS.

-DTRs:
   Bi Tri ___ Pat Ach
 L  2  2    2    2   1
 R  2  2    2    2   1
 Plantar response was flexor bilaterally.

-Coordination: No intention tremor, no dysdiadochokinesia noted.
No dysmetria on FNF or HKS bilaterally.

-Gait: Good initiation. Narrow-based, normal stride and arm
swing.  Able to walk in tandem without difficulty. 

Discharge Exam
==============

PHYSICAL EXAMINATION
24 HR Data (last updated ___ @ 001)
    Temp: 97.5 (Tm 98.9), BP: 136/88 (120-143/68-88), HR: 43
(43-51), RR: 18, O2 sat: 100% (95-100), O2 delivery: Ra   
General: Awake, cooperative 
HEENT: NC/AT, no scleral icterus noted, 
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity
Pulmonary: He did appear dyspneic at times when talking. Lungs
CTA bilaterally without R/R/W
Cardiac: RRR, nl. S1S2, no M/R/G noted
Extremities: No ___ edema.
Skin: no rashes or lesions noted.

Neurologic:
-Mental Status: Alert, oriented. Able to relate history without
difficulty. Attentive, able to name ___ backward without
difficulty. Language is fluent with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors.
Pt was able to name both high and low frequency objects.  Able 
to
read without difficulty. Speech was not dysarthric. Able to
follow both midline and appendicular commands.  There was no
evidence of apraxia or neglect. No agrapheasthesia although 
makes one error on left compared to zero errors on right.

-Cranial Nerves:
 II, III, IV, VI:  PERRL 3 to 2mm on left, 2>1 on right and 
brisk. He had restriction of abduction of right and left eye but 
otherwise full EOM without
nystagmus. Left exophoria. Subtle left sided visual field 
deficit
in the superior temporal field.  
 V: Facial sensation intact to light touch.
 VII: No facial droop, facial musculature symmetric.
 VIII: Hearing intact to finger-rub bilaterally.
 IX, X: Palate elevates symmetrically.
 XI: ___ strength in trapezii and SCM bilaterally.
 XII: Tongue protrudes to right but with full excursions

-Motor: No atrophy. No pronator drift bilaterally. Subtle
decrease in strength in deltoids, triceps, finger extensors,
___. otherwise ___ 

-Sensory: No deficits to light touch. He has decrease to pin and 
temp
b/l to level of shin and moderately to level of wrists in both 
hands. On left, he has decreased sensation to pinprick in ulnar 
distribution. He has no proprioceptive deficits. 

-DTRs:
   Bi Tri ___ Pat Ach
 L  2  2    2    2   1
 R  2  2    2    2   1
 Plantar response was flexor bilaterally.

-Coordination: No intention tremor, no dysdiadochokinesia noted.
He has proprioceptive deficits on the left, missing the location
touched by ~0.5cm to the left each time (Right hand touching 
spot
on the left side of his body. 

-Gait: Normal. No posturing.

Laboratory Data: Reviewed in omr

 
Pertinent Results:
Admission Labs
==============

___ 01:46PM BLOOD WBC-10.1* RBC-4.59* Hgb-16.0 Hct-45.9 
MCV-100* MCH-34.9* MCHC-34.9 RDW-12.5 RDWSD-45.2 Plt ___
___ 01:46PM BLOOD Neuts-81.1* Lymphs-12.4* Monos-5.4 
Eos-0.3* Baso-0.4 Im ___ AbsNeut-8.20* AbsLymp-1.25 
AbsMono-0.55 AbsEos-0.03* AbsBaso-0.04
___ 01:46PM BLOOD Plt ___
___ 02:37PM BLOOD ___ PTT-31.0 ___
___ 01:46PM BLOOD Glucose-91 UreaN-15 Creat-1.0 Na-139 
K-5.0 Cl-102 HCO3-22 AnGap-15
___ 01:46PM BLOOD ALT-24 AST-39 AlkPhos-32*
___ 01:46PM BLOOD cTropnT-<0.01
___ 05:55PM BLOOD cTropnT-<0.01
___ 07:50AM BLOOD CK-MB-2 cTropnT-<0.01
___ 01:46PM BLOOD Albumin-4.6 Phos-3.4 Mg-2.1
___ 01:46PM BLOOD VitB12-251
___ 07:40AM BLOOD TSH-6.3*
___ 01:46PM BLOOD TSH-4.0
___ 07:40AM BLOOD T3-107 Free T4-1.0

Interval Labs 
=========
___ 01:46PM BLOOD VitB12-251
___ 07:40AM BLOOD TSH-6.3*
___ 01:46PM BLOOD TSH-4.0
___ 07:40AM BLOOD T3-107 Free T4-1.0
___ 01:46PM BLOOD 25VitD-41
___ 06:25AM BLOOD PEP-NO SPECIFI
___ 06:25AM BLOOD Lyme Ab-PND Trep Ab-NEG
___ 05:31PM CEREBROSPINAL FLUID (CSF) TNC-0 RBC-1 Polys-0 
___ Macroph-24
___ 05:31PM CEREBROSPINAL FLUID (CSF) TotProt-37 Glucose-59

Imaging
==========
MR HEAD W & W/O CONTRASTStudy Date of ___ 2:07 ___

 
 
1. Unremarkable MRI of the brain, without evidence of infarct, 
hemorrhage, or
intracranial mass.  No suspicious parenchymal FLAIR signal 
abnormality.
2. Additional findings described above

Transthoracic Echocardiogram Report
Name: ___ ___ MRN: ___ Date: ___ 10:46
IMPRESSION: Mild symmetric left ventricular hypertrophy with 
normal cavity size and regional/
global biventricular systolic function. Mild mitral 
regurgitation with normal valve morphology.

Discharge Labs
==============
___ 07:50AM BLOOD WBC-5.9 RBC-4.57* Hgb-15.9 Hct-46.1 
MCV-101* MCH-34.8* MCHC-34.5 RDW-12.8 RDWSD-47.1* Plt ___
___ 07:50AM BLOOD Glucose-85 UreaN-15 Creat-1.1 Na-142 
K-4.4 Cl-103 HCO3-___ AnGap-___ year old male with a pmhx of Grave's disease, hyperlipidemia, 
amblyopia of left eye who presented to the ED with subacute on 
chronic shortness of breath, transient facial numbness and 
pressure, worsened with exertion with recent incidentally noted 
R ICA dissection on MRA. No evidence of seizure on EEG, MRI 
negative, but will discharge on carbemazepine for atypical 
facial pain vs EEG negative seizures (? insular). 

TRANSITIONAL ISSUES
====================
[] Discharged on Carbamazepine 150mg daily, please follow up 
facial symptoms, consider uptitrating 
[] Please obtain BMP in 1 week  
[] Patient will continue on asa for ? of dissection (though may 
just have an abnormal carotid bifurcation) and f/u w/ Neurology
[] Consider EMG/NCS for evaluation of stocking distribution 
polyneuropathy and L. ___ 

HOSPITAL COURSE:
===============
The patient's symptoms began one year ago, and consisted of 
chest pressure, shortness of breath, lightheaded and faint (not 
dizzy or room spinning). Over the past ___ months, the patient  
had an increase in frequency of these events. In the two to 
three days leading to presentation, he had an increase in 
frequency as well. The symptoms seemed to be exacerbated by 
exertion, though he also had facial numbness on rest that would 
progress down in his face in the matter of seconds.   There was 
concern that there was a cardiac etiology of these events, but 
he had multiple MIBIs which were negative. 

Seizure was considered as a possible etiology and the patient 
was admitted for spell capture and EEG rule out. In addition, he 
underwent MRI due to the possibility of focal neurologic 
findings on exam, very subtle left UMN pattern of weakness in 
addition to the concern for EEG negative seizure. EEG was able 
to capture the event w/o EEG correlate and therefore seizure 
seems less likely, though it is possible that he has a very 
small focus that we are not capturing on EEG.  MRI revealed no 
structural or ischemic pathology. We did pursue an LP because of 
high clinical suspicion for seizure and slight left UMN pattern 
of weakness (on exam only, pt did not complain of weakness and 
score 5- compared to 5 on right). His LP was bland with 0 wbc, 1 
rbc, protein 37, glucose 59.  

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 325 mg PO DAILY 
2. Atorvastatin 10 mg PO QPM 

 
Discharge Medications:
1.  CarBAMazepine 150 mg PO DAILY  
RX *carbamazepine 100 mg 1.5 tablet(s) by mouth once a day Disp 
#*60 Capsule Refills:*0 
2.  Aspirin 325 mg PO DAILY  
3.  Atorvastatin 10 mg PO QPM  
4.Outpatient Lab Work
ICD ___ 782.0

Basic Metabolic Panel  

___ 
___ ___ 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Paresthesias 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to the neurology service at ___ out of 
concern for possible seizures.

You have been having symptoms that were most concerning for a 
seizure or cardiac event, such as a myocardial infarction. Your 
cardiac workup has been thorough and negative for evidence of 
pathology.

Given the history of your events, we were suspicious that you 
may be having seizures. We hooked you up to EEG to see if we 
could capture one of your events on EEG. We were able to do so, 
and did not see evidence of seizure on EEG. We did, however 
decide to start you on anti-seizure medication to see if this 
may help your symptoms. 

Ultimately, given the diagnostic uncertainty, you had an MRI of 
your head to rule out any area of your brain that might be 
causing your symptoms. The MRI was unremarkable for evidence of 
pathology. We also did a spinal tap (lumbar puncture) to 
evaluate for possible etiologies for your symptoms, the results 
of your lumbar puncture were normal (wbc 0, rbc 1, protein 37, 
glucose 59). We have some fluid on hold in our lab should we 
need to perform more tests in the future. 

In summary, we are unsure what is causing the constellation of 
your symptoms. We are reassured that these symptoms are not 
being caused by a stroke or a mass in the brain. 

You are being discharged home.

It was a pleasure taking care of you at ___.

Best,
Your ___ Care Team
 
Followup Instructions:
___